US07262212B2
A mixture of N-(2-hydroxyethyl)phthalimide (3.59 g, 18.75 mmol), 4-hydroxybenzotrifluoride (3.04 g, 18.75 mmol), diethyl azodicarboxylate (4.37 ml, 28.13 mmol) and triphenylphosphine (7.38 g, 28.13 mmol) in THF (50 ml) was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=5/1) to afford N-[2-(4-trifluoromethylphenoxy)ethyl]phthalimide (4.05 g, yield 69%) as a colorless crystalline powder.

reactant | N-(2-hydroxyethyl)phthalimide | 18.75 mmol, 3.59 g | OCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3
reactant | 4-hydroxybenzotrifluoride | 18.75 mmol, 3.04 g | OC1=CC=C(C=C1)C(F)(F)F | C7H5F3O
reactant | diethyl azodicarboxylate | 28.13 mmol, 4.37 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 28.13 mmol, 7.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-[2-(4-trifluoromethylphenoxy)ethyl]phthalimide | 4.05 g, yield 69% | FC(C1=CC=C(OCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1)(F)F | C17H12F3NO3
